US06518257B1
(iii) Production of (1H-imidazol-4-yl)(4-methoxy[1,1′-biphenyl]-3-yl)methanone
1H-Imidazol-4-yl(4-methoxy[1,1′-biphenyl]-3-yl)methanol (0.94 g) was dissolved in dichloromethane (100 ml) and manganese dioxide (5.52 g) was added. The mixture was stirred at room temperature for 14 h, filtrated and concentrated. To the obtained residue was added ethyl acetate and the mixture was crystallized to give the title compound (0.84 g) as a colorless solid.

reactant | 1H-Imidazol-4-yl(4-methoxy[1,1′-biphenyl]-3-yl)methanol | 0.94 g | N1C=NC(=C1)C(O)C=1C=C(C=CC1OC)C1=CC=CC=C1 | C17H16N2O2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
catalyst | manganese dioxide | 5.52 g | [O-2].[O-2].[Mn+4]
product | (1H-imidazol-4-yl)(4-methoxy[1,1′-biphenyl]-3-yl)methanone | 0.84 g | N1C=NC(=C1)C(=O)C=1C=C(C=CC1OC)C1=CC=CC=C1 | C17H14N2O2
